US07618975B2
(2-Chloro-quinazolin-4-yl)-(2-methoxy-phenyl)-amine
The title compound was prepared from 2,4-dichloroquinazoline and 2-methoxyaniline by a procedure similar to example 28 (35% yield). 1H NMR (CDCl3): 8.76-8.79 (m, 1H), 8.50 (s, broad, 1H), 7.77-7.88 (m, 3H), 7.54-7.59 (m, 1H), 7.09-7.13 (m, 2H), 6.95-6.99 (m, 2H), 4.00 (s, 3H).

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 2-methoxyaniline | COC1=C(N)C=CC=C1 | C7H9NO
product | (2-Chloro-quinazolin-4-yl)-(2-methoxy-phenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NC1=C(C=CC=C1)OC | C15H12ClN3O
